US07816371B2
b. (S)-tert-Butyl 2-((5-amino-1-oxoisoquinolin-2(1H)-yl)methyl)pyrrolidine-1-carboxylate
Into a round bottom flask was combined (S)-tert-butyl 2-((5-nitro-1-oxoisoquinolin-2(1H)-yl)methyl)pyrrolidine-1-carboxylate (1.54 g, 0.00412 mol) palladium on C (0.04 g, 0.0004 mol) and methanol (60 mL, 1 mol). The flask was purged and evacuated three times with hydrogen. The mixture was allowed to stir at room temperature under 1 atm for three hours. The mixture was filtered over a bed of celite and the filtrate was reduced in vacuo to yield a light brown oil which was purified by column chromatography on silica gel using a methylene chloride:methanol (0-10%) gradient. The combined pure fractions were reduced in vacuo to yield a tan solid.

reactant | (S)-tert-butyl 2-((5-nitro-1-oxoisoquinolin-2(1H)-yl)methyl)pyrrolidine-1-carboxylate | 0.00412 mol, 1.54 g | [N+](=O)([O-])C1=C2C=CN(C(C2=CC=C1)=O)C[C@H]1N(CCC1)C(=O)OC(C)(C)C | C19H23N3O5
reactant | methanol | 1 mol, 60 mL | CO | CH4O
product | (S)-tert-Butyl 2-((5-amino-1-oxoisoquinolin-2(1H)-yl)methyl)pyrrolidine-1-carboxylate | NC1=C2C=CN(C(C2=CC=C1)=O)C[C@H]1N(CCC1)C(=O)OC(C)(C)C | C19H25N3O3
